US08377964B2
e. Preparation of 4-(4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidin-1-ylmethyl)piperidine-1-carboxylic acid tert-butyl ester
To a suspension of the bis HCl salt of 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid (piperidin-4-ylmethyl)amide (4.28 g, 11.06 mmol) in dichloromethane (55 mL) at room temperature was added N,N-diisopropylethylamine (1.71 g, 2.31 mL), 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde (2.58 g, 12.17 mmol) and sodium triacetoxyborohydride (3.28 g, 15.48 mmol) sequentially. The resulting mixture was stirred at room temperature for 2 h then extracted with 1M aqueous hydrochloric acid. The combined aqueous layers were basified to pH 12 with sodium hydroxide pellets, then extracted with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered and evaporated. The resulting residue was dried under high vacuum to give a light brownish foam (4.9 g, 9.6 mmol, 87%) which was used without further purification. (m/z): [M+H]+ calcd for C29H45N5O3 512.35. found: 512.4.

reactant | HCl | Cl | ClH
reactant | 2-tert-butyl-1H-benzoimidazole-4-carboxylic acid (piperidin-4-ylmethyl)amide | 11.06 mmol, 4.28 g | N1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)(C)C | C18H26N4O
reactant | N,N-diisopropylethylamine | 2.31 mL, 1.71 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde | 12.17 mmol, 2.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | sodium triacetoxyborohydride | 15.48 mmol, 3.28 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | 4-(4-{[(2-tert-butyl-1H-benzoimidazole-4-carbonyl)amino]methyl}-piperidin-1-ylmethyl)piperidine-1-carboxylic acid tert-butyl ester | 9.6 mmol, 4.9 g, 87% | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCC(CC1)CNC(=O)C1=CC=CC=2NC(=NC21)C(C)(C)C | C29H45N5O3
